US06962805B2
The flask culture of each of argG promoter modified strains was conducted. As controls, parent strain AJ12092 and AJ12092/pargG were also cultured. These strains were each inoculated into a medium [containing 0.1 g/dl of KH2PO4, 0.04 g/dl of MgSO4, 0.001 g/dl of FeSO4, 0.01 g/dl of MnSO4, 5 μg/dl of VB1, 5 μg/dl of biotin and 45 mg/dl (in terms of N) of soybean hydrolyzate]; and then spread on an agar medium (containing 0.5 g/dl of glucose, 1 g/dl of polypeptone, 1 g/dl of yeast extract, 0.5 g/dl of NaCl and 5 μg/l of chloramphenicol), and cultured at 31.5° C. for 20 hours. One aze of the cells were cultured in a flask containing 4 g/dl of glucose and 6.5 g/dl of ammonium sulfate at 31.5° C. until glucose had been completely consumed. The absorbance (CD620) of the culture liquid diluted to a concentration of 1/51 with 0.2 N HCl solution, the quantity of arginine produced (concentration: g/dl) and culture time were shown in Table 22.

reactant | KH2PO4 | OP(=O)(O)[O-].[K+]
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | biotin | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H16N2O3S
reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | NaCl | [Na+].[Cl-]
reactant | chloramphenicol | C1=CC(=CC=C1[C@H]([C@@H](CO)NC(=O)C(Cl)Cl)O)[N+](=O)[O-] | C11H12Cl2N2O5
reactant | ammonium sulfate | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
catalyst | MnSO4 | [O-]S(=O)(=O)[O-].[Mn+2]
product | arginine | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
